Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
 Right facial numbness and leg weakness. 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yr old with hx of Right cerebellar stroke in the stetting of 
a PFO ___ year ago, surgically repaired and hx DM, peripheral 
neuropathy, HTN and hyperlipidemia who presents to the ED with 
right face and foot numbness since 3 am. 

He reports  that he was in his usual state of helath till 3 am 
when he woke up and noted his Right leg below the knee including 
the foot was numb and tingling. He went back to sleep, woke up 
at 9 am with persistent numbness and right cheek tingling and he 
think his left foot was tingling too. He reports that he felt 
unsteady walking to the kitchen but not particularly weak. 

Of note he had a recent Right foot ulcer for which he was in 
supportive boots for weeks which were taken off in ___. 

On neurologic review of systems, the patient denies headache, 
lightheadedness, or confusion. Denies difficulty with producing 
or comprehending speech. Denies loss of vision, blurred vision, 
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies focal muscle weakness or  noted facial droop 
by family. Denies bowel or bladder incontinence or retention. 

On general review of systems, the patient denies fevers, rigors, 
night sweats.  Denies chest pain, palpitations, dyspnea, or 
cough. Denies nausea, vomiting, diarrhea, constipation, or 
abdominal pain. No recent change in bowel or bladder habits. 
Denies dysuria or hematuria. Denies myalgias, arthralgias, or 
rash.  

 
Past Medical History:
DM on insulin 
HTB
Peripheral diabetic neuropathy 
Previous Right cerebellar stroke e
PFO s/p repair ___ yrs ago. 

 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission Exam:
Vitals: T: 98.5 HR: 94 BP:140/71  RR: 16 SaO2: 97% RA 
General: NAD, morbidly obese.  
HEENT: NCAT, no oropharyngeal lesions, neck supple  
___: RRR, no M/R/G  
Pulmonary: CTAB, no crackles or wheezes  
Abdomen: Soft, NT, ND, +BS, no guarding  
Extremities: Warm, no edema  

Neurologic Examination:  
MS: Awake, alert, oriented x 3. Able to relate history without 
difficulty . Attentive, able to name ___ backward without 
difficulty. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Naming intact. No 
paraphasias. No dysarthria. Normal prosody. Able to register 3 
objects and recall ___ at 5 minutes. No apraxia. No evidence of 
hemineglect. No left-right confusion. Able to follow both 
midline and appendicular commands. 
 
Cranial Nerves - PERRL 3->2 brisk. VF full to number counting. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally. No facial movement asymmetry. Hearing intact to 
finger rub bilaterally. Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline.  

Motor - Normal bulk and tone. No drift. No tremor or asterixis. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5    
Sensory - No deficits to light touch, Increased sensation to 
pain and temp on the dorsum of the right foot.  No extinction to 
DSS. 

DTRs:  
[Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally.  

Coordination - No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.  

Gait - deferred 

Discharge exam:
vitals: BP 140/80, HR 85, Spo2 97%RA
gen: NAD
Pulm: CTAB
CV: RRR
ABD: NTND
Extremities: no edema
Neuro: Alert and oriented x3. speech is fluent no dysarthria, 
face symmetric, EOMI, PERRL, strength ___ throughout, sensation 
intact to LT throughout, follows simple and complex commnads

 
Pertinent Results:
___ 08:23PM   ___ PO2-41* PCO2-43 PH-7.36 TOTAL CO2-25 
BASE XS--1
___ 08:00PM   GLUCOSE-340* UREA N-38* CREAT-1.7* 
SODIUM-132* POTASSIUM-4.8 CHLORIDE-94* TOTAL CO2-22 ANION 
GAP-21*
___ 05:00PM URINE  HOURS-RANDOM
___ 05:00PM URINE  HOURS-RANDOM
___ 05:00PM URINE  GR HOLD-HOLD
___ 05:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000 KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 03:42PM   ___ PTT-27.7 ___
___ 02:54PM   GLUCOSE-460* UREA N-40* CREAT-1.8* 
SODIUM-132* POTASSIUM-4.6 CHLORIDE-95* TOTAL CO2-21* ANION 
GAP-21*
___ 02:54PM   ALT(SGPT)-36 AST(SGOT)-27 ALK PHOS-97 TOT 
BILI-0.6
___ 02:54PM   ALBUMIN-4.4 CALCIUM-9.8 PHOSPHATE-3.8 
MAGNESIUM-1.8
___ 02:54PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:54PM   WBC-12.4* RBC-4.53* HGB-15.5 HCT-43.4 MCV-96 
MCH-34.2* MCHC-35.7 RDW-11.9 RDWSD-41.3
___ 02:54PM   NEUTS-62.4 ___ MONOS-9.1 EOS-2.3 
BASOS-1.1* IM ___ AbsNeut-7.72* AbsLymp-2.99 AbsMono-1.13* 
AbsEos-0.29 AbsBaso-0.14*

CT head
IMPRESSION: 
  
  
1. No acute intracranial abnormality. 
2. Small focal areas of hypoattenuation in the right 
periventricular region 
and in the right centrum semiovale appear old and likely 
represent chronic 
infarcts. 
  
MRI c-spine wet read:
Alignment is anatomic. No cord signal abnormality is detected. 
There is no 
fluid collection within the cervical spinal canal. 

MRI/MRA brain
IMPRESSION: 
  
  
1. Late acute infarct in the posterolateral aspect of the right 
inferior 
medulla. 
2. Multiple supra and infratentorial small chronic lacunar 
infarcts as 
described. 
3. Unremarkable head MRA within limitations of motion artifact. 
4. Mucous retention cysts in bilateral maxillary sinuses and 
partial fluid 
opacification of the right mastoid air cells. 

MRI c spine
IMPRESSION:  
  
1.  Moderately motion degraded examination. 
2.  No evidence of spinal canal narrowing or cord compression.  
No definite 
cord signal abnormality. 
  
MRA neck
IMPRESSION:  
  
Unremarkable neck MRA. 

MRA read pending
 
Brief Hospital Course:
___ yr old male with history of a right cerebellar stroke ___ 
years ago in the setting of a PFO (surgically repaired), and DM, 
peripheral neuropathy, HTN and hyperlipidemia who presented to 
the ED with right mid-cheek and lower leg numbness, found to 
have multiple areas of hypodensities on CT indicative of chronic 
infarcts. MRI brain showed right medullary infarct. MRA neck 
showed patent vessels. The etiology is not clear. Based on size 
and location and history of poorly controlled DM suggests 
possible small vessel disease. However, given his history of 
prior cerebellar stroke and prior PFO closure embolic is a 
possibility too.  ASA stopped and Plavix started. TTE will be 
performed as an outpatient.
He was evaluated by ___ who recommended outpatient ___. He was 
discharged in stable condition.
We strongly recommended he remains in house for completion of 
the workup but patient insisted on leaving, understanding the 
risks.

Transitional issues:
- follow up TTE
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 77) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? () Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Lisinopril 40 mg PO DAILY 
3. Citalopram 40 mg PO DAILY 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. ALPRAZolam 0.5 mg PO QHS:PRN anxiety 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*1 
2.  ALPRAZolam 0.5 mg PO QHS:PRN anxiety  
3.  Atorvastatin 10 mg PO QPM  
4.  Citalopram 40 mg PO DAILY  
5.  Hydrochlorothiazide 12.5 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.Outpatient Physical Therapy

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of right face and left leg 
numbness resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

We are changing your medications as follows:
-stop aspirin
-start plavix
Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below. Please call the number below to set up an 
appointment for outpatient echo. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___